US07872031B2
A solution of 6-benzyl-5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine (11.3 mmol) in methylene chloride (56 mL) is cooled to ° C. and treated with 1-chloroethyl chloroformate (ACE-Cl) (56.4 mmol). The reaction is warmed to RT for 1 hour, diluted with methylene chloride (100 mL), washed with NaHCO3 (50 mL), and extracted with methylene chloride (50 mL). The combined organic layers are washed with brine (50 mL), dried and concentrated to give an oily residue which was dissolved in methanol (150 mL) and refluxed for 1 hour. The solvent is removed in vacuo and the crude product is triturated in ether and filtered to give 5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine, which is used without further purification.

reactant | 6-benzyl-5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine | 11.3 mmol | C(C1=CC=CC=C1)N1CCC2=C(CC1)OC=C2 | C15H17NO
reactant | 1-chloroethyl chloroformate | 56.4 mmol | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methylene chloride | 56 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 150 mL | CO | CH4O
product | 5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine | O1C=CC=2CCNCCC21 | C8H11NO
